US06916956B2
To a solution of phthalide (26.8 g) in methylene chloride (600 ml) were successively added N,O-dimethylhydroxylamine hydrochloride (58.5 g) and aluminum chloride (40.0 g) under ice-cooling, and triethylamine (139 ml) was added dropwise over 40 min. The mixture was stirred at room temperature for 12 hr. The reaction mixture was poured into diluted hydrochloric acid, and the organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 2-hydroxymethyl-N-methoxy-N-methylbenzamide. The obtained 2-hydroxymethyl-N-methoxy-N-methylbenzamide was dissolved in N,N-dimethylformamide (300 ml), and imidazole (9.53 g) and tert-butyldimethylchlorosilane (21.1 g) were added. The mixture was stirred at room temperature for 3.5 hr and the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentration under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3) to give the title compound (42.0 g).

reactant | phthalide | 26.8 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 58.5 g | Cl.CNOC
reactant | aluminum chloride | 40.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 139 ml | C(C)N(CC)CC | C6H15N
product | 2-hydroxymethyl-N-methoxy-N-methylbenzamide | OCC1=C(C(=O)N(C)OC)C=CC=C1 | C10H13NO3
